### PR TITLE
Add Erdős Problem 21 (the Erdős–Lovász intersecting family problem), link Kahn's formal proof

### LINKED ISSUE #6191: Erdős Problem 21
### What is the Erdős problem?

https://www.erdosproblems.com/21

Let $f(n)$ be minimal such that there is an intersecting family $\mathcal{F}$ of sets of size $n$ with $\lvert \mathcal{F}\rvert=f(n)$ such that any set $S$ with $\lvert S\rvert \leq n-1$ is disjoint from at least one $A\in \mathcal{F}$. Is it true that $f(n) \ll n$?

Status: proved (Lean). Kahn's theorem ($500 problem); a formal proof exists in plby/lean-proofs (`Erdos21.erdos_21`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6191.

### What changed
Adds `FormalConjectures/ErdosProblems/21.lean` with `IsErdosLovaszFamily n F`, `f n` (minimal size of such a family) and:
- `erdos_21` (`research solved`, `answer(True)`): `f(n) ≪ n` (Kahn [Ka94], the $500 problem). Linked to plby/lean-proofs `Erdos21.erdos_21` (Codex and GPT-5.6 Sol; 11 files, 13k lines, all Mathlib-only including their PrimeNumberTheoremAnd copy).
- `erdos_21.variants.lower` (`research solved`): the Erdős–Lovász bound `f(n) ≥ 8n/3 − 3`.
- `erdos_21.variants.three_n` (`research open`): whether `f(n) = 3n + O(1)`.
- `erdos_21.variants.small_values` (`research solved`): `f(1..5) = 1, 3, 6, 9, 13` [Tr14], [BaWa21].

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos21.erdos_21` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (the definitions coincide after unfolding):

<details>
<summary>Bridge</summary>

```lean
open Filter

lemma f_eq (n : ℕ) : Erdos21.f n = Erdos21Plby.erdosLovaszF n := by
  unfold Erdos21.f Erdos21Plby.erdosLovaszF
  simp only [Erdos21.IsErdosLovaszFamily, Erdos21Plby.IsErdosLovaszFamily, Erdos21Plby.IsUniform,
    Erdos21Plby.IsIntersecting, Erdos21Plby.AvoidsAllSmallSets]

theorem erdos_21_bridge : type_of% Erdos21.erdos_21 := by
  show True ↔ _
  simp only [true_iff, f_eq]
  obtain ⟨C, N, h⟩ := Erdos21Plby.erdos_21
  exact ⟨C, eventually_atTop.2 ⟨N, h⟩⟩
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«21»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/21.lean [hunk 1]
```diff
@@ -0,0 +1,104 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/21.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
